US05859256
3-(N- tert-butoxycarbonylaminoethylthio)-4-chloropyridine
To a suspension of 4-chloropyridine hydrochloride (2 g) in 40 mL of dry THF was added a freshly prepared LDA (2.5 eq.) at -70° C. and the resulting mixture was continued to stir at the same temperature for 4 hours. A solution of N, N'-di(tert-butoxycarbonyl)cystamine (2.5 g, 0.5 eq.) in 10 ml of THF was cannulated to the above solution. The reaction mixture was allowed to warm up to 0° C., quenched with water and then extracted with ethyl acetate. The solvent was removed under reduced pressure and the crude residue was purified by flash chromatography to give of the title compound(0.95 g, 50%) as a white solid. 1H NMR (CDCl3) δ 1.42 (s, 9H), 3.15 (t, 2H, J=7), 3.38 (t, 2H, J=7), 4.95 (s, 1H), 7.32 (d, 1H, J=6), 8.35 (d, 1H, J=6), and 8.60 (s, 1H).

reactant | 4-chloropyridine hydrochloride | 2 g | Cl.ClC1=CC=NC=C1
reactant | LDA | 2.5 eq. | [Li+].CC(C)[N-]C(C)C
reactant | N, N'-di(tert-butoxycarbonyl)cystamine | 2.5 g, 0.5 eq. | C(C)(C)(C)OC(=O)NCCSSCCNC(=O)OC(C)(C)C | C14H28N2O4S2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(N- tert-butoxycarbonylaminoethylthio)-4-chloropyridine | 0.95 g, 50% | C(C)(C)(C)OC(=O)NCCSC=1C=NC=CC1Cl | C12H17ClN2O2S
